US04705797
A solution of 3.72 ml of 3-oxo-but-1-ene was added dropwise, over a period of 20 minutes and such that the temperature did not exceed 2°-3° C., to a cooled solution of 7.87 g of N-methyl-3,3-diphenylpropylamine in 7 ml of diethyl ether. The solution thus obtained was evaporated in vacuo at room temperature to give 10.3 g of N-methyl-N-(3,3-diphenylpropyl)-4-aminobutan-2-one (100%) as free base, shown to be practically pure by TLC (chloroform: methanol 9:1 by volume) which could be used as such for further reactions. This compound could be transformed into the corresponding hydrochloride (m.p. 133°-135° C.) by treating the free base with hydrogen chloride in diethyl ether, and crystallizing the product thus obtained first from acetone: ethyl acetate: isopropanol then from acetone.

reactant | 3-oxo-but-1-ene | 3.72 ml | O=C(C=C)C | C4H6O
reactant | N-methyl-3,3-diphenylpropylamine | 7.87 g | CNCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19N
solvent | diethyl ether | 7 ml | C(C)OCC | C4H10O
product | N-methyl-N-(3,3-diphenylpropyl)-4-aminobutan-2-one | 10.3 g, 100% | CN(CCC(C)=O)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H25NO
